Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___
 
Major Surgical or Invasive Procedure:
___: Right heart catheterization
___: Anal exam under anesthesia with anal fistuolotomy
___: Bronchoscopy with EBUS and lymph node biopsies
attach
 
Pertinent Results:
ADMISSION LABS:
===============
___ 05:49PM BLOOD WBC-9.0 RBC-3.71* Hgb-11.3* Hct-34.3* 
MCV-93 MCH-30.5 MCHC-32.9 RDW-16.9* RDWSD-56.8* Plt ___
___ 05:49PM BLOOD Glucose-112* UreaN-69* Creat-1.9* Na-140 
K-4.5 Cl-102 HCO3-24 AnGap-14
___ 05:49PM BLOOD Calcium-10.1 Phos-3.3 Mg-2.3 Iron-65

PERTINENT INTERVAL LABS:
========================
___ 05:49PM BLOOD calTIBC-300 Ferritn-246 TRF-231

MICRO:
======
___ 11:12 am BRONCHOALVEOLAR LAVAGE      RIGHT LOWER LOBE. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ CLUSTERS. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count, if 
applicable. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   RESPIRATORY CULTURE (Final ___: 
      10,000-100,000 CFU/mL Commensal Respiratory Flora. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      This is a low yield procedure based on our ___ 
studies. 
      if pulmonary Histoplasmosis, Coccidioidomycosis, 
Blastomycosis,
      Aspergillosis or Mucormycosis is strongly suspected, 
contact the
      Microbiology Laboratory (___). 

   ACID FAST CULTURE (Pending): 

___ 11:44 am TISSUE      MEDIASTINAL LYMPH NODE. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Preliminary):    RESULTS PENDING. 

   ANAEROBIC CULTURE (Preliminary): 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   POTASSIUM HYDROXIDE PREPARATION (Preliminary): 

STUDIES:
========
___: CT chest w/o contrast
Mediastinal and hilar lymphadenopathy could be reactive ___ 
nature or sequela of the evident prior granulomatous infection, 
however, a lymphoproliferative disorder such as lymphoma cannot 
be excluded.  A PET-CT scan is recommended for further 
assessment. 
Moderate cardiomegaly with associated extensive coronary artery 
atherosclerotic disease and CABG postsurgical changes.  
Moderate pulmonary edema. 

___: Right heart cath
 Normal right heart filling pressure. Mildly elevated left 
heart filling pressure.
 Mild pulmonary hypertension (mPA 24mmHg) with hemodynamic 
features consistent with
predominant post-capillary PH (TPG 8, DPG 3, PVR 1.35 ___.
 Normal systemic blood pressure and SVR.
 Normal cardiac output/index as estimated by both the indirect 
Fick method and by thermodilution.

DISCHARGE LABS:
===============
___ 07:33AM BLOOD WBC-8.8 RBC-2.92* Hgb-9.0* Hct-28.1* 
MCV-96 MCH-30.8 MCHC-32.0 RDW-17.9* RDWSD-62.1* Plt ___
___ 07:33AM BLOOD Glucose-102* UreaN-53* Creat-2.1* Na-139 
K-4.4 Cl-101 HCO3-22 AnGap-16
___ 07:33AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.0
 
Brief Hospital Course:
PATIENT SUMMARY:
================
Mr. ___ is a ___ with CAD/MI s/p PCIs and CABG ___, HFrEF
(EF 28%) s/p ___ ICD ___ and cardiomems ___,
pAF on apixaban, HTN, DLD, prior L MCA CVA, CKD, and recurrent
perirectal abscesses who presented as direct admit from home for
heparin gtt bridge for planned procedures including RHC and anal
fistulotomy. Chest CT was also performed which demonstrated 
enlarged lymph nodes, now s/p bronchoscopy with biopsies. He was 
actively diuresed for slight volume overload until euvolemic and 
then discharged on his home diuretic regimen. 

# CORONARIES: Unknown; needs repeat stress
___ RHC: RA 5, PA ___ (24), PCWP 16 CO 5.89 CI 2.92 SVR 1005
# PUMP: TTE ___ showed ___. IVS 1.0, PW 1.0. LVEDD 6.1, LVEF
___. RV normal size/function. No AS/AR. 1+ MR. ___+ TR. Mild
pHTN. 
# RHYTHM: NSR w/ non-specific intraventricular delay

TRANSITIONAL ISSUES:
====================
Discharge Weight: 195.8 lbs
Discharge Creatinine: 2.1
Discharge diuretic: Home torsemide 60mg BID

[ ] Tooth extraction: According to OMFS, it is appropriate to 
continue apixaban prior to outpatient extraction. If his primary 
dentist has concerns, he can be referred to our oral surgeons by 
calling ___. Recommend not holding apixaban for given 
his prior stroke.
[ ] Stress testing: Recommend another CPET (cardiopulmonary 
stress test) now that he is euvolemic and optimized. 
[ ] Interventional pulmonology: Pt will follow up with IP ___ 2 
weeks, where he will review the results from his 
bronchoscopy/biopsy. 
[ ] Cardiology: Outpatient notes had said his spironolactone was 
increased from 25mg to 50mg PO daily but patient only reports 
taking 25mg per day. He was continued on 25mg daily of 
spironolactone while inpatient.

ACTIVE ISSUES: 
============== 
# Chronic HFrEF s/p ICD and cardiomems (EF ___ 
History of dilated ischemic cardiomyopathy, ___ Class II, EDW 
previously documented as 185-187lbs, but likely closer to 
190-195lbs given relatively dry RHC at this weight. On 
presentation he was well compensated. RHC was performed while 
inpatient which had largely normal pressures and it was 
discovered that his cardiomems was not calibrated correctly and 
still is reporting falsely elevated numbers. He had a few days 
off diuretics due to NPO status for procedures and mild 
hypotension, then restarted on his home dosing at discharge. He 
previously had a CPET that demonstrated poor function. This 
should be repeated now that he is optimized to reassess his need 
for LVAD/transplant.
- PRELOAD: Torsemide 60mg PO BID 
- AFTERLOAD: Entresto 97-103mg PO BID, Carvedilol 12.5/18.75mg 
PO BID
- NHBK: Spironolactone 25mg PO daily, Carvedilol as above
- Ionotrope: Digoxin 0.125mcg PO daily
- ICD: s/p ___ ICD placement ___ ___ 
- Transplant/VAD: undergoing workup

# Transplant workup
Evaluation for advanced therapies for VAD/transplant started 
___.
- Dental/OMFS were consulted for teeth removal. He was found to 
have no acute dental infections requiring intervention. 
Therefore, extractions were not performed during this admission. 
Dental/OMFS recommended pursuing extraction of mobile tooth #9 
as an outpatient with an outpatient dentist with no need to hold 
apixaban. If there are concerns from his primary dentist, he can 
be referred to our outpatient ___ clinic for extraction. 
- Underwent right heart catheterization on ___ which 
demonstrated only mildly elevated filling pressures including a 
mildly elevated PASP, which is significantly improved from 
prior. Vasodilator study was not performed given low pulmonary 
pressures. 
- CT chest was performed as part of workup, found asymmetric 
pulmonary edema (R>L) and enlarged mediastinal/hilar lymph 
nodes. Given these findings, IP was consulted and he underwent 
bronchoscopy w/ EBUS and lymph node biopsies on ___. Per 
pulmonology, unclear etiology of the lymph nodes. Initially 
thought to be just pulmonary edema but RHC showed he was fairly 
euvolemic. Other possibilities include prior granulomatous 
disease or, less likely, lymphoma.

# Perianal fistula
Initially presented ___ s/p multiple exams under anesthesia, 
I&D, most recently ___ abscess was drained and malecot 
catheter placed. Evaluated by ___ ___ ___ clinic after 
referral from cardiology for pre-transplant evaluation. They 
noted no evidence of abscess but recommended exam under 
anesthesia with management of fistula ___ ano. He underwent anal 
fistulotomy with colorectal surgery on ___. The procedure was 
without complications and he had a cutting ___ placed that 
will remain until outpatient follow up. 
- Outpatient CRS follow up on ___. At that visit they will 
schedule further follow up with Dr. ___.

CHRONIC ISSUES: 
============== 
# CAD c/b MI s/p PCI and subsequent CABG
- Continued ASA 81mg
- Continued atorvastatin 80mg 

# Paroxysmal atrial fibrillation
# Hx CVA 
- Continued ASA 81, atorvastatin 80
- Continued carvedilol, digoxin per above
- Resumed home apixaban 5mg BID

# History of GI bleed
- Continued omeprazole

# ___ on CKD stage ___ 
B/l 1.3-1.6. Cr 1.9 on admission, had been up to 2.2 as
outpatient. Fluctuated throughout admission, 2.1 on discharge, 
which may be new baseline. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sacubitril-Valsartan (97mg-103mg) 1 TAB PO BID 
2. Allopurinol ___ mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. CARVedilol 12.5 mg PO BID 
5. CARVedilol 6.25 mg PO QPM 
6. Digoxin 0.125 mg PO DAILY 
7. Omeprazole 40 mg PO BID 
8. Spironolactone 25 mg PO DAILY 
9. Torsemide 60 mg PO BID 
10. Apixaban 5 mg PO BID 
11. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Apixaban 5 mg PO BID  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  CARVedilol 12.5 mg PO BID  
6.  CARVedilol 6.25 mg PO QPM  
7.  Digoxin 0.125 mg PO DAILY  
8.  Omeprazole 40 mg PO BID  
9.  Sacubitril-Valsartan (97mg-103mg) 1 TAB PO BID  
10.  Spironolactone 25 mg PO DAILY  
11.  Torsemide 60 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic heart failure with reduced ejection fraction
Paroxysmal atrial fibrillation
Perianal fistula
Mediastinal/hilar lymphadenopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,   

You were admitted to the hospital for heparin (a blood thinner 
similar to the apixaban you take at home) while getting multiple 
procedures done. Please see below for more information on your 
hospitalization. It was a pleasure participating ___ your care!  
 
What happened while you were ___ the hospital?  
-  We held your apixaban and started you on a heparin drip for 
continued anticoagulation for your atrial fibrillation
-  You underwent multiple procedures while you were 
hospitalized; this includes a right heart catheterization, an 
anal fistulotomy, and a bronchoscopy with lymph node biopsies
-  We gave you a little extra diuretics while you were ___ the 
hospital to help keep fluid off you. 

What should you do after leaving the hospital?  
- Please take your medications as listed below and follow up at 
the listed appointments. We have made NO changes to your 
medications.
 - You have an appointment with the lung doctors ___ ___. They 
will go over the results of your biopsy then.
- Your weight at discharge is 195.8 lbs. Please weigh yourself 
today at home and use this as your new baseline.  
- Please weigh yourself every day ___ the morning. Call your 
doctor if your weight goes up or down by more than 3 lbs ___ one 
day or 5 lb ___ one week

We wish you the best! 
 
- Your ___ Healthcare Team  

 
Followup Instructions:
___